US05591752
11-Cyanomethylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine
Under ice cooling and stirring, 0.44 g of mercaptoacetonitrile was added to 2.22 g of 11-hydroxy-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine obtained in Reference example 45 dissolved in a mixed solution of 20 ml of trifluoroacetic acid and 10 ml of methylene chloride and the mixture was stirred at the same temperature for 1.5 hours. The residue obtained by condensing the reaction mixture under reduced pressure was dissolved in ethyl acetate and the organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and a saturated saline solution and dried over anhydrous sodium sulfate. The viscous residue obtained by removing the solvent was crystallized from diethyl ether to obtain 1.23 g of the title compound.

reactant | mercaptoacetonitrile | 0.44 g | SCC#N | C2H3NS
reactant | 11-hydroxy-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | 2.22 g | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C24H19NO3
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-Cyanomethylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | 1.23 g | C(#N)CSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C26H20N2O2S
